* C:\Users\Jason\Documents\uw\ee538-autumn2020\Lecture\noise_sampling.asc
V2 vnoise 0 PWL file=C:\Users\Jason\Documents\uw\ee538-autumn2020\Project\input_noise.csv
C1 vn_filt 0 10n
R1 vn_filt vnoise 159
V1 vsignal 0 SINE(0 1 100)
C2 vsig_filt 0 10n
R2 vsig_filt vsignal 15.915k
.wave C:\Users\Jason\Documents\uw\ee538-autumn2020\Lecture\sampled_noise.wav 32 1e6 V(vn_filt) V(vsig_filt)
.tran 0 100m 0 .5u
.IC V(vn_filt) = 0
.IC V(vsig_filt) = 0
* Voltage waveforms are converted to a wave file using the '.wave' SPICE directive. \nThis models the sampling process of the ADC, as the analog voltage is only saved at integer multiples of the sampling period.
.backanno
.end
